US07915300B2
4-Propionyl-benzoic acid methyl ester (744 mg, 3.87 mmol), pyrrolidone hydrotribromide (1.98 g), and 2-pyrrolidinone (380 mg, 4.5 mmol) in THF (38 mL) were heated at 50° C. under nitrogen for 3 h. The mixture was cooled, filtered, concentrated, and then redissolved in ether (50 mL). The ether solution was washed successively with water (20 mL), saturated aqueous sodium thiosulphate (20 mL), saturated aqueous NaCl (20 mL), and water (20 mL), dried and evaporated to give crude 4-(2-Bromo-propionyl)-benzoic acid methyl ester as a yellow oil (1.025 g) that was used directly in the Hantzsch coupling. This material contained 91% of the desired bromoketone, 5% starting material, and 4% 4-bromo-1-butanol, as determined by 1H NMR.

reactant | 4-Propionyl-benzoic acid methyl ester | 3.87 mmol, 744 mg | COC(C1=CC=C(C=C1)C(CC)=O)=O | C11H12O3
reactant | pyrrolidone hydrotribromide | 1.98 g | C1CC(=O)NC1.Br[Br-]Br
reactant | 2-pyrrolidinone | 4.5 mmol, 380 mg | N1C(CCC1)=O | C4H7NO
solvent | THF | 38 mL | C1CCOC1 | C4H8O
product | 4-(2-Bromo-propionyl)-benzoic acid methyl ester | 1.025 g | COC(C1=CC=C(C=C1)C(C(C)Br)=O)=O | C11H11BrO3
